US05268355
A mixture of 4-(2,5,6,6-tetramethyl-1-cyclohexen-1-yl)-2-butanone (13 g, 0.061 mol) and propargylic alcohol (4 g, 0.071 mol) was added within 100 min to a mechanically stirred slurry of powdered KOH (26 g, 0.46 mol) in THF (100 ml) at 20° C. under N2. After 3 h at 20°, the brown mixture was poured into a cold solution of NH4Cl (28 g) in H2O (100 ml). Extraction with ether, workup and chromatography [SiO2, (200 g), cyclohexane/ethyl acetate 7:3] afforded 4-methyl-6-(2,5,6,6-tetramethyl-1-cyclohexen-1-yl)-2-hexyn-1,4-diol as a viscous pale-yellow oil (12.3 g, 77%).

reactant | 4-(2,5,6,6-tetramethyl-1-cyclohexen-1-yl)-2-butanone | 0.061 mol, 13 g | CC1=C(C(C(CC1)C)(C)C)CCC(C)=O | C14H24O
reactant | KOH | 0.46 mol, 26 g | [OH-].[K+]
reactant | NH4Cl | 28 g | [NH4+].[Cl-]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | 100 ml | O | H2O
product | 4-methyl-6-(2,5,6,6-tetramethyl-1-cyclohexen-1-yl)-2-hexyn-1,4-diol | 12.3 g, 77% | CC(C#CCO)(CCC1=C(CCC(C1(C)C)C)C)O | C17H28O2
